US06458780B1
7-Acetylimidazo[5,1-b]thiazole (2.49 g) was dissolved in a solution of 150 ml of THF and 30 ml of HMPA. A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (18 ml) was added dropwise to the solution in an argon atmosphere at −70° C. The mixture was stirred at the same temperature for 30 min. Trimethylsilyl chloride (2.28 ml) was added dropwise thereto. The mixture was stirred at the same temperature for 30 min. A solution of 3.21 g of N-bromosuccinimide in 90 ml of THF was added dropwise thereto. The mixture was stirred for 2 hr while raising the temperature to room temperature. Ethyl acetate (400 ml) was added to the reaction solution. The mixture was washed twice with brine, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed by distillation under the reduced pressure. The residue was dissolved in 120 ml of DMF. Sodium acetate (1.48 g) was added to the solution. The mixture was stirred at room temperature for 14 hr and then at 60° C. for 4 hr. The reaction solution was concentrated under the reduced pressure until the amount of the solution became half. Brine (200 ml) was added to the concentrate, followed by extraction twice with 300 ml of ethyl acetate. The organic layers were combined together, washed three times with brine, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (eluting with dichloromethane:ethyl acetate=1:1 and then with ethyl acetate) to give 2.11 g of 7-acetoxyacetylimidazo[5,1-b]thiazole.

reactant | 7-Acetylimidazo[5,1-b]thiazole | 2.49 g | C(C)(=O)C=1N=CN2C1SC=C2 | C7H6N2OS
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 18 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | Trimethylsilyl chloride | 2.28 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | N-bromosuccinimide | 3.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | HMPA | 30 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 7-acetoxyacetylimidazo[5,1-b]thiazole | 2.11 g | C(C)(=O)OCC(=O)C=1N=CN2C1SC=C2 | C9H8N2O3S
